US04587341
A. 8-chloro-2,4-dimethylquinoline
To 4.0 g (0.03 mol) of o-chloroaniline in 50 ml of hydrochloric acid at 100° C. was added dropwise 3.4 g (0.04 mol) of 3-penten-2-one. The mixture was refluxed for 12 hours, then neutralised with 5N sodium hydroxide and extracted with dichloromethane. The organic extract was dried and concentrated to an oil. This was purified on a silica gel column to give 2.54 g (42% of the title product; m.p. 66°-68° C. Anal. Calcd. for C11H10NCl: C, 68.94; H, 5.26; N, 7.31; Cl, 18.50. Found C, 68.87; H, 5.27; N, 7.29; Cl, 18.48.

reactant | o-chloroaniline | 0.03 mol, 4.0 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 3-penten-2-one | 0.04 mol, 3.4 g | CC(C=CC)=O | C5H8O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 8-chloro-2,4-dimethylquinoline | 42% | ClC=1C=CC=C2C(=CC(=NC12)C)C | C11H10ClN
